US07816395B2
2-Chloro-4-{[(2-fluorophenyl)methyl][(3S)-1-(1-methylethyl)-5-oxo-3-pyrrolidinyl]amino}benzonitrile
NaH (60% in mineral oil, 0.026 g, 0.65 mmol) was washed free of mineral oil and then suspended in DMF (3 mL) and cooled to −20° C. To this suspension was added a solution of 2-chloro-4-{[(3S)-1-(1-methylethyl)-5-oxo-3-pyrrolidinyl]amino}benzonitrile (0.120 g, 0.43 mmol). After stirring at −20° C. for 20 min, 1-(bromomethyl)-2-fluorobenzene (0.12 g, 0.65 mmol) in DMF (2 mL) was added and the reaction was stirred at −20° C. for 5 min and then at 0° C. for 5 min. The reaction was quenched with aqueous NH4Cl, diluted with H2O, and extracted with Et2O (2×). The organic extracts were washed with H2O, dried over Na2SO4, filtered, and concentrated. The residue was purified via silica gel chromatography with 25% EtOAc in hexane grading to 100% EtOAc in hexane to afford the product (0.13 g, 79%) as a white solid. 1H-NMR (CDCl3) δ: 1.137 (6H, dd, J=16.8 Hz, 6.8 Hz), 2.547 (1H, m), 2.842 (1H, m), 3.349 (1H, m), 3.749 (1H, m), 4.465 (1H, m), 4.588 (2H, m), 4.755 (1H, m), 6.566 (1H, d, J=8.8 Hz), 6.747 (1H, s), 7.031 (1H, m), 7.130 (2H, m), 7.325 (1H, m), 7.455 (1H, d, J=8.8 Hz). LC-MS (ES) m/e 386.4 (M+H)+.

reactant | NaH | 0.65 mmol, 0.026 g | [H-].[Na+]
reactant | 2-chloro-4-{[(3S)-1-(1-methylethyl)-5-oxo-3-pyrrolidinyl]amino}benzonitrile | 0.43 mmol, 0.120 g | ClC1=C(C#N)C=CC(=C1)N[C@@H]1CN(C(C1)=O)C(C)C | C14H16ClN3O
reactant | 1-(bromomethyl)-2-fluorobenzene | 0.65 mmol, 0.12 g | BrCC1=C(C=CC=C1)F | C7H6BrF
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-Chloro-4-{[(2-fluorophenyl)methyl][(3S)-1-(1-methylethyl)-5-oxo-3-pyrrolidinyl]amino}benzonitrile | 0.13 g, 79% | ClC1=C(C#N)C=CC(=C1)N([C@@H]1CN(C(C1)=O)C(C)C)CC1=C(C=CC=C1)F | C21H21ClFN3O
